US03931177
3-(2,6-Dimethoxybenzoyl)propionic acid was demethylated with boron tribromide according to the general procedure of Example 22(i) to give 3-(2,6-dihydroxybenzoyl)propionic acid.

reactant | 3-(2,6-Dimethoxybenzoyl)propionic acid | COC1=C(C(=O)CCC(=O)O)C(=CC=C1)OC | C12H14O5
reactant | boron tribromide | B(Br)(Br)Br | BBr3
product | 3-(2,6-dihydroxybenzoyl)propionic acid | OC1=C(C(=O)CCC(=O)O)C(=CC=C1)O | C10H10O5
